US04210754
26 G. of p-chlorobenzaldehyde and 24 g. of N-(2-aminoethyl)-morpholine are boiled in 150 ml. of benzene for 3 hours under reflux with water being separated. Then, the mixture is evaporated to dryness and the residue is distilled at 165° C./0.01 mmHg. 5 G. of the resulting 4-{2-[(p-chlorobenzylidene)-amino]-ethyl}-morpholine, 2.3 g. of sodium acetate and 3 ml. of 30% hydrogen peroxide are stirred in 60 ml. of methanol overnight at room temperature. Thereafter, the mixture is evaporated to dryness and the residue is taken up in 50 ml. of methylene chloride and 50 ml. of water. The phases are separated and the aqueous phase extracted with 50 ml. of methylene chloride. The methylene chloride extract is dried over sodium sulfate and evaporated. The residue is chromatographed over a silica gel column with a mixture of chloroform and ethanol. The pure fractions are combined and evaporated. The residue is recrystallized from isopropanol, and 0.7 g. of p-chloro-N-(2-morpholinoethyl)-benzamide is obtained, which is identical to the product obtained in Example 1.

reactant | p-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | N-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | p-chloro-N-(2-morpholinoethyl)-benzamide | ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C13H17ClN2O2
